US07250442B2
1-(2,4-Difluoro-benzyl)-3,3-bis-(4-hydroxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one
Combine a solution of 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one (0.15 g, 0.250 mmol) in anhydrous tetrahydrofuran (6 ml), with 0.750 mL of 1N lithium bis(trimethlysilyl)amide in tetrahydrofuran. Stir the resulting mixture at room temperature for 0.25 h. In a separate flask, prepare a solution of 2,4-difluorobenzyl bromide (0.155 g, 0.750 mmol) and sodium iodide (0.011 g, 0.075 mmol) in anhydrous tetrahydrofuran. Stir at room temperature for 0.25 h then add this solution to the 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one. Stir and heat the resulting mixture at 60° C. for 18 h. Cool to ambient temperature and dilute with 6 ml of methanol. Absorb the crude intermediate on 1 g of silica gel and evaporate the solvent under reduced pressure. Chromatograph this residue on a silica gel column eluting with 1:9 ethyl acetate/hexane. Combine the isolated intermediate, 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1-(2,4-difluoro-benzyl)-1,3-dihydro-indol-2-one, with 4 ml of 1N CsF in methanol. Stir and heat at 60 C for 1 h then remove solvent in vacuuo. Dissolve the residue in 10 ml of water and extract with ethyl acetate (4×7 ml). Pass the ethyl acetate solution over anhydrous sodium sulfate and concentrate under vacuum. Triturate the residue with diethyl ether to obtain 0.097 g (78%) of the titled compound as granular crystals: LCMS (system 2) tR=4.13 min (100%), ESMS (M+1) m/z=499.56

reactant | 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one | 0.250 mmol, 0.15 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1(C(NC2=CC=CC=C12)=O)C1=CC(=C(C(=C1)C)O[Si](C)(C)C(C)(C)C)C)C)(C)C | C36H51NO3Si2
reactant | lithium bis(trimethlysilyl)amide | 1N, 0.750 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2,4-difluorobenzyl bromide | 0.750 mmol, 0.155 g | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
reactant | sodium iodide | 0.075 mmol, 0.011 g | [I-].[Na+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methanol | 6 ml | CO | CH4O
product | 1-(2,4-Difluoro-benzyl)-3,3-bis-(4-hydroxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one | 0.097 g, 78% | FC1=C(CN2C(C(C3=CC=CC=C23)(C2=CC(=C(C(=C2)C)O)C)C2=CC(=C(C(=C2)C)O)C)=O)C=CC(=C1)F | C31H27F2NO3
